US07816558B2
200 mg of methyl 2-(4-azido-3-cyanophenyl)isonicotinate, 54 μl of ethynylbenzene, 72 μl of aqueous 1 M sodium L(+)-ascorbate solution and 2 mg of copper sulfate were added to a mixture of 1.4 ml of water and 1.4 ml of 2-propanol, followed by vigorous stirring overnight at room temperature. The reaction mixture was diluted with 5 ml of water, the precipitate formed was collected by filtration, washed with iced cool water, and dried under reduced pressure to obtain 12 mg of methyl 2-[3-cyano-4-(4-phenyl-1H-1,2,3-triazol-1-yl)phenyl]isonicotinate.

reactant | methyl 2-(4-azido-3-cyanophenyl)isonicotinate | 200 mg | N(=[N+]=[N-])C1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C14H9N5O2
reactant | ethynylbenzene | 54 μl | C(#C)C1=CC=CC=C1 | C8H6
reactant | 2-propanol | 1.4 ml | CC(C)O | C3H8O
solvent | water | 5 ml | O | H2O
catalyst | copper sulfate | 2 mg | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 1.4 ml | O | H2O
product | methyl 2-[3-cyano-4-(4-phenyl-1H-1,2,3-triazol-1-yl)phenyl]isonicotinate | 12 mg | C(#N)C=1C=C(C=CC1N1N=NC(=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CN1 | C22H15N5O2
